US04012392
Diethyl 3-oxo-2,2,N-trimethyl-3,3'-iminodipropionate
To a solution of 61 g of N-methyl-β-alanine ethyl ester in 600 ml of dry pyridine there is added 82 g of ethyl 2-chloroformyl-2-methylpropionate. During the addition, which takes 30 minutes, the mixture is mechanically stirred and cooled with ice. Stirring is continued at 10° C for 30 minutes and then at 30° - 40° C for 1 hour. Next the pyridine is evaporated in vacuo, leaving a residue to which a small quantity of water is added, whereafter the mixture is extracted with ether. The extract is dried over magnesium sulphate and evaporated leaving the above-mentioned product as a liquid which is purified by distillation at reduced pressure. Yield 97 g (75%). Boiling point 134° - 136° C (1 mm). nD22 1.4565.

reactant | N-methyl-β-alanine ethyl ester | 61 g | C(C)OC(CCNC)=O | C6H13NO2
reactant | ethyl 2-chloroformyl-2-methylpropionate | 82 g | ClC(=O)C(C(=O)OCC)(C)C | C7H11ClO3
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
product | Diethyl 3-oxo-2,2,N-trimethyl-3,3'-iminodipropionate | O=C(C(C(=O)OCC)(C)C)N(CCC(=O)OCC)C | C13H23NO5
